US06528525B1
(a) Diethyl 2-(4-benzyloxybenzyl)-2-(3-phenylpropyl)malonate
Sodium hydride (55% suspension in oil, 0.48 g) was added to a solution of diethyl 2-(3-phenylpropyl)malonate (2.78 g) in a mixture of N,N-dimethylacetamide (10 ml) and toluene (20 ml). The mixture was stirred at ambient temperature for 30 minutes. To the reaction mixture 4-benzyloxybenzyl chloride (2.45 g) was added and the mixture was stirred at ambient temperature for 30 minutes and then at 60° C. for 30 minutes. At the end of this time the reaction mixture was partitioned between ethyl acetate and water. The ethyl acetate layer was separated and dried over anhydrous magnesium sulfate and concentrated. The residue was purified via chromatography on a silica gel column using hexane/ethyl acetate=9/1 as the eluant to afford the desired compound (3.91 g) as a syrup.

reactant | Sodium hydride | 0.48 g | [H-].[Na+]
reactant | diethyl 2-(3-phenylpropyl)malonate | 2.78 g | C1(=CC=CC=C1)CCCC(C(=O)OCC)C(=O)OCC | C16H22O4
reactant | 4-benzyloxybenzyl chloride | 2.45 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | Diethyl 2-(4-benzyloxybenzyl)-2-(3-phenylpropyl)malonate | 3.91 g | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)OCC)(C(=O)OCC)CCCC2=CC=CC=C2)C=C1 | C30H34O5
